US05525606
2-Amino-4-chloro-5-nitropyrimidine
A suspension of 2-amino-4-hydroxy-5-nitropyrimidine (5.0 g, 32.1 mmol) in phosphorous oxychloride (100 mL) was refluxed overnight, and the excess phosphorous oxychloride was evaporated under reduced pressure. The residue was mixed with ice (100 g) in an ice-bath, and the mixture was neutralized with concentrated aqueous sodium carbonate solution. A yellow precipitate was collected by filtration and washed with water: yield, 1.39 g (25%); mp 191°-194° C. dec.; 1H NMR δ8.45 (br s, 2H, NH2, exchange with D2O), 9.03 (s, 1H, H-6); MS (EI) calcd. m/z for C4H3N4O235Cl 173.9944, found 173.9934; calcd. m/z for C4H3N4O237Cl 175.9915, found 175.9916.

reactant | 2-amino-4-hydroxy-5-nitropyrimidine | 32.1 mmol, 5.0 g | NC1=NC=C(C(=N1)O)[N+](=O)[O-] | C4H4N4O3
reactant | phosphorous oxychloride | 100 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Amino-4-chloro-5-nitropyrimidine | NC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4H3ClN4O2
